US05278148
408 mg (0.565 mmol) of (S)-N-[(1S,2S)-1-(cyclohexyl methyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-t-butoxycarbonylimidazole-4-propionamide were dissolved in 5.5 ml of methanol, treated with 23 mg of potassium carbonate and stirred at room temperature for 5 hours. Thereafter, the reaction mixture was poured into ice-water and extracted with methylene chloride. The methylene chloride extracts were dried over potassium carbonate and evaporated, and the residue was chromatographed on 35 g of silica gel with a mixture of methylene chloride and isopropanol as the eluting agent, whereby there were obtained 280 mg (80%) of (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-imidazole-4-propionamide as an amorphous solid, MS: 622 (M+H)+.

reactant | (S)-N-[(1S,2S)-1-(cyclohexyl methyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-t-butoxycarbonylimidazole-4-propionamide | 0.565 mmol, 408 mg | C1(CCCCC1)C[C@@H]([C@H](CN1C(CCC1)=O)O)NC([C@H](CC=1N(C=NC1)C(=O)OC(C)(C)C)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C40H59N5O7
reactant | potassium carbonate | 23 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5.5 ml | CO | CH4O
product | (S)-N-[(1S,2S)-1-(cyclohexylmethyl)-2-hydroxy-3-(2-oxo-1-pyrrolidinyl)propyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-imidazole-4-propionamide | 280 mg, 80% | C1(CCCCC1)C[C@@H]([C@H](CN1C(CCC1)=O)O)NC([C@H](CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C35H51N5O5
